US05514680
The procedure of Shin, S. C. and Lee. Y. Y., Taehan Hwahakhoe Chi 27(5):382-4 (1983) was adapted. 5,7-Dibromo-1,4-dihydroquinoxaline-2,3-dione (46 mg, 0.144 mmole) was dissolved into 3N KOH (2 mL) at 60° C. for 1 h, and NH2OSO3H (20 mg, 0.172 mmole, Aldrich) in distilled water (0.5 mL) was dropwise added into above solution with stirring at 60° C. Some precipitate came out after 15 mins, then a second 20 mg NH2OSO3H portion was added. The mixture was stirred at room temperature for 1 h. The white precipitate was collected by filtration, washed with cold distilled water (0.5 mL), affording crude 1-amino-5,7-dibromo-1,4-dihydro-2,3-quinoxalinedione (38 mg, 79%) after drying in the air at 60° C. for 2 h (contains the isomeric 4-amino-5,7-dibromo-2,3-quinoxalinedione, by NMR, but it is not known which is produced in a greater amount). A 38 mg sample of crude 1-amino-5,7-dibromo-1,4-dihydro-2,3-quinoxalinedione was dissolved into distilled water (4 mL) at 60° C., the insoluble material was removed by filtration, and the filtrate was acidified with AcOH to pH=5 to give a white precipitate, which was collected by filtration and washed with cold distilled water (2×1 mL). The precipitate was dried at 60° C. for 2 h affording 1-amino-5,7-dibromo-1,4-dihydro-2,3-quinoxalinedione (28 mg, 58.5%) as a white powder with some isomer. Mp: 273°-5° C. (dec. from 270° C.). IR (KBr, cm-1): 3435; 3289; 3190; 1719; 1672; 1625; 1584. NMR (1H, DMSO-d6): δ5.831 ((s, 2H); 7.672 (d, J=15 Hz, 1H); 7.810 (d, J=15 Hz, 1H); 11.275 (s, 1H). HRMS: calcd for C8H5N3O2Br2 (M+) m/z: 332.8746; Found: 332.8744.

reactant | 5,7-Dibromo-1,4-dihydroquinoxaline-2,3-dione | 0.144 mmole, 46 mg | BrC1=C2NC(C(NC2=CC(=C1)Br)=O)=O | C8H4Br2N2O2
reactant | KOH | 3N, 2 mL | [OH-].[K+]
reactant | NH2OSO3H | 0.172 mmole, 20 mg | NOS(=O)(=O)O | H3NO4S
reactant | NH2OSO3H | 20 mg | NOS(=O)(=O)O | H3NO4S
solvent | water | 0.5 mL | O | H2O
product | 1-amino-5,7-dibromo-1,4-dihydro-2,3-quinoxalinedione | 38 mg, 79% | NN1C(C(NC2=C(C=C(C=C12)Br)Br)=O)=O | C8H5Br2N3O2
